US07700775B2
A solution of 40% dimethylamine/water (30 mL, 26.9 g, 239 mmol) and ethanol (50 mL) was treated with a solution of 8-bromo-1-octanol (15.13 g, 72.3 mmol) and ethanol (20 mL), added dropwise over 10 minutes. The reaction mixture was stirred for 75 hours, diluted with ethyl acetate (80 mL) and washed with saturated sodium bicarbonate solution. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with saturated sodium bicarbonate solution (50 mL) and brine (2×40 mL), dried over sodium sulfate, and concentrated. The 11.4 g of 8-dimethylamino-1-octanol, isolated as a yellow oil, was used as is.

reactant | dimethylamine water | 239 mmol, 30 mL, 26.9 g | CNC.O
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | 8-bromo-1-octanol | 72.3 mmol, 15.13 g | BrCCCCCCCCO | C8H17BrO
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 8-dimethylamino-1-octanol | 11.4 g | CN(CCCCCCCCO)C | C10H23NO
